US08048878B2
Synthesis of (6R*,9aS*)-6-(4-carbomethoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one
A solution of 1-[(2R*,6S*)-2-(4-carbomethoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one (281 mg) and tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride (53 mg) in methylene chloride (150 mL) was heated under reflux for 1.5 hours. The reaction solution was left to cool to room temperature and then concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=4:1->ethyl acetate) to obtain 145 mg of the title compound. The property value of the compound is as follows.

reactant | 1-[(2R*,6S*)-2-(4-carbomethoxyphenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 281 mg | C(=O)(OC)C1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C19H23NO3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride | 53 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (6R*,9aS*)-6-(4-carbomethoxyphenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 145 mg | C(=O)(OC)C1=CC=C(C=C1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C17H19NO3
